US07074798B2
c) 2-[1-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)phenyl]-1-methylsulfanylthiocarbonyloxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester
Sodium hydride (60% oleaginous) was added to a solution of 2-[[2-(1,3-dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)-phenyl]hydroxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester (low polarity) (0.214 g) in tetrahydrofuran (10 ml) at 0° C. under nitrogen atmosphere, and the mixture was stirred at room temperature for 20 minutes. The temperature of the mixture was returned to 0° C., carbon disulfide (0.045 ml) was added thereto, and the mixture was stirred for 1 hour. Then, methyl iodide (0.047 ml) was added to the reaction mixture, and the mixture was further stirred at room temperature for 2 hours. The reaction mixture was poured into 50 ml of ethyl acetate and 20 ml of water, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation at reduced pressure. The residue was purified by silica gel column chromatography to give 0.175 g of the title compound from the elution fraction of hexane-ethyl acetate (3:7).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-[[2-(1,3-dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)-phenyl]hydroxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.214 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(O)C1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C28H38N6O7
reactant | carbon disulfide | 0.045 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.047 ml | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)phenyl]-1-methylsulfanylthiocarbonyloxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.175 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(OC(=S)SC)C1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C30H40N6O7S2
